US09284323B2
To a stirred solution of 1-chloro-3-methyl-2-vinyl-naphthalene (3.0 g, 14.8 mmol) in CH2Cl2 (120 mL) was added 3-chloroperoxybenzoic acid (3.8 g, 22.0 mmol) at 0° C. and allowed to warm to room temperature overnight. The reaction mixture was washed with NaHCO3, brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give 2-(1-chloro-3-methylnaphthalen-2-yl)oxirane. 1H-NMR: 400 MHz, (CDCl3) δ 8.26 (d, J=7.2 Hz, 1H), 7.74 (dd, J=7.2, 2.0 Hz, 1H), 7.57-7.48 (m, 3H), 4.13 (t, J=3.6 Hz, 1H), 3.34 (t, J=5.6 Hz, 1H), 2.97 (dd, J=5.2, 2.8 Hz, 1H), 2.64 (s, 3H).

reactant | 1-chloro-3-methyl-2-vinyl-naphthalene | 14.8 mmol, 3.0 g | ClC1=C(C(=CC2=CC=CC=C12)C)C=C | C13H11Cl
reactant | 3-chloroperoxybenzoic acid | 22.0 mmol, 3.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-chloro-3-methylnaphthalen-2-yl)oxirane | ClC1=C(C(=CC2=CC=CC=C12)C)C1OC1 | C13H11ClO
